US04242452
Each thus obtained N-carbamoyl-2-(2-thienyl)glycine was subjected to decarbamoylation by reacting it with nitrous acid to give 2-(2-thienyl)glycine as follows: To a mixture of 5.0 g. of N-carbamoyl-D-(2-thienyl)glycine, 10 ml. of conc. HCl and a 100 ml. of a 50% aqueous acetic acid, 8.6 g. of a 20% aqueous solution of NaNO2 was added at 10° C. with stirring. After the completion of adding NaNO2, the reaction was carried out at 10° C. for 2 hours. The formed D-2-(2-thienyl)glycine was isolated by adsorption on an anion-exchange resin (commercially available under the registered trademark "Amberlite IR-120B" made by Rohm & Haas Co.) followed by elution with ammonia water. The fraction obtained was concentrated and neutralized with hydrochloric acid. D-2-(2-thienyl)glycine was collected and recrystallized from an aqueous ethanol. The amount of the obtained D-2-(2-thienyl)glycine was 2.9 g.

reactant | N-carbamoyl-2-(2-thienyl)glycine | C(N)(=O)NC(C(=O)O)C=1SC=CC1 | C7H8N2O3S
reactant | nitrous acid | N(=O)O | HNO2
product | 2-(2-thienyl)glycine | S1C(=CC=C1)C(N)C(=O)O | C6H7NO2S
